US06008212
4-Bromo-3-(2-hydroxy-ethyl)-8-nitro-naphthalene-1-sulfonamide
Sodium methoxide in methanol (23.7 mL of a 0.5M solution, 11.8 mmol) was added to a suspension of 3-(2-acetoxy-ethyl)-4-bromo-8-nitronaphthalene-1-sulfonamide (4.70 g, 11.3 mmol) in methanol (33 mL). The mixture was stirred under a nitrogen atmosphere at room temperature for 90 minutes, then concentrated under vacuum to approximately half volume, diluted with ethyl acetate (200 mL), and washed with 2N hydrochloric acid. The oganic solution was washed with water (100 mL) and brine (50 mL), dried over magnesium sulfate, filtered, and left to stand at room temperature. The organic solution deposited a solid which was collected by filtration, washed with ethyl acetate (2×15 mL), and vacuum dried to give the title comound (1.78 g). Additional poduct (1.88 g) was obtained from the mother liquors after concentration under vacuum and crystallization from diethyl ether.

reactant | Sodium methoxide | C[O-].[Na+]
reactant | 3-(2-acetoxy-ethyl)-4-bromo-8-nitronaphthalene-1-sulfonamide | 11.3 mmol, 4.70 g | C(C)(=O)OCCC=1C=C(C2=C(C=CC=C2C1Br)[N+](=O)[O-])S(=O)(=O)N | C14H13BrN2O6S
solvent | methanol | CO | CH4O
solvent | methanol | 33 mL | CO | CH4O
product | 4-Bromo-3-(2-hydroxy-ethyl)-8-nitro-naphthalene-1-sulfonamide | BrC1=C(C=C(C2=C(C=CC=C12)[N+](=O)[O-])S(=O)(=O)N)CCO | C12H11BrN2O5S
